US07923451B2
4-Cyclopentyl-6-(4-methyl-piperazin-1-yl)-pyrimidin-2-ylamine
A solution of crude 2-amino-4-chloro-6-cyclopentylpyrimidine (92 mg, 0.47 mmol), and N-methyl piperazine (0.15 mL, 1.4 mmol) in EtOH (2 mL) was heated at 70° C. for 2 h. The reaction was cooled to rt and concentrated and the crude residue chromatographed (2 M NH3 in MeOH/CH2Cl2) to yield an oil (81 mg, 66%). MS (ESI): mass calcd. for C14H23N5, 261.2; m/z found, 262.3 [M+H]+. 1H NMR (CDCl3): 5.85 (s, 1H), 4.78 (s, 2H), 3.59 (t, J=5.0, 4H), 2.81 (q, J=8.7, 1H), 2.44 (t, J=5.0, 4H), 2.32 (s, 3H), 2.04-1.89 (m, 2H), 1.82-1.59 (m, 6H).

reactant | 2-amino-4-chloro-6-cyclopentylpyrimidine | 0.47 mmol, 92 mg | NC1=NC(=CC(=N1)Cl)C1CCCC1 | C9H12ClN3
reactant | N-methyl piperazine | 1.4 mmol, 0.15 mL | CN1CCNCC1 | C5H12N2
solvent | EtOH | 2 mL | CCO | C2H6O
product | 4-Cyclopentyl-6-(4-methyl-piperazin-1-yl)-pyrimidin-2-ylamine | 81 mg, 66% | C1(CCCC1)C1=NC(=NC(=C1)N1CCN(CC1)C)N | C14H23N5
